US07977331B1
To a solution of methyl 1-(3-chloropropyl)-3-cyclohexyl-2-(1H-pyrrol-2-yl)-1H-indole-6-carboxylate (130 mg, 0.326 mmol) in N,N-dimethylformamide (4 ml) was added sodium hydride (17 mg, 0.424 mmol) under ice-cooling, and the mixture was stirred for 1 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to give methyl 13-cyclohexyl-6,7-dihydro-5H-pyrrolo[2′,1′:3,4][1,4]diazepino[1,2-a]indole-10-carboxylate (91 mg, yield 77%).

reactant | methyl 1-(3-chloropropyl)-3-cyclohexyl-2-(1H-pyrrol-2-yl)-1H-indole-6-carboxylate | 0.326 mmol, 130 mg | ClCCCN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C=1NC=CC1 | C23H27ClN2O2
reactant | sodium hydride | 0.424 mmol, 17 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | methyl 13-cyclohexyl-6,7-dihydro-5H-pyrrolo[2′,1′:3,4][1,4]diazepino[1,2-a]indole-10-carboxylate | 91 mg, yield 77% | C1(CCCCC1)C1=C2N(C=3C=C(C=CC13)C(=O)OC)CCCN1C2=CC=C1 | C23H26N2O2
